US03971782
b. 9-(1,4,5,6-Tetrahydro-2-pyrimidinyl)-9H-fluoren-9-ol
1,3-Diaminopropane (4.92 ml.) was added dropwise to a stirred, ice-cooled suspension of 9H-fluorene-9-carboximidic acid ethyl ester hydrochloride (14.8 g.) in absolute ethanol (100 ml.). The mixture was stirred for 30 minutes at 0°C, 30 minutes at room temperature and then heated under reflux overnight (16 hours). After evaporation of the ethanol the residue was dissolved in 2N hydrochloric acid, extracted once with ether and then basified (2N NaOH). The precipitate was filtered and recrystallised from isopropanol/ether to give the crude title compound (4.012 g.). The hydrochloride salt of the title compound crystallised from isopropanol/ethereal HCl, m.p. 242°-245°. Found: C, 67.6; H, 5.95; N, 9.05%. C17H16N2O.HCl requires C, 67.9; H, 5.7; N, 9.3%.

reactant | 1,3-Diaminopropane | 4.92 ml | NCCCN | C3H10N2
reactant | 9H-fluorene-9-carboximidic acid ethyl ester hydrochloride | 14.8 g | Cl.C(C)OC(=N)C1C2=CC=CC=C2C=2C=CC=CC12
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 9-(1,4,5,6-Tetrahydro-2-pyrimidinyl)-9H-fluoren-9-ol | 4.012 g | N1C(=NCCC1)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C17H16N2O
